data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_34606_0,[C:1](/[N:6]=[C:3](/[N:5]=[C:4](\[N:2]([H:7])[H:8])[H:10])[H:9])([H:11])([H:12])[H:13]>>[C:1]([N:6]1[C:3]([H:9])=[N:5][C:4]1([N:2]([H:7])[H:8])[H:10])([H:11])([H:12])[H:13],32.32566249999678
MR_562461_0,[C:1]([C:2]([C:3](=[O:7])[H:11])=[O:6])([O:4][H:8])([O:5][H:9])[H:10]>>[C:1]([C:2]([C:3]([O:5][H:9])([O:7][H:8])[H:11])=[O:6])(=[O:4])[H:10],40.63941000001577
MR_224027_1,[C:1]([N:3]([C:4]([O:7][H:10])=[O:9])/[N:8]=[C:5](\[C:2]([H:16])([H:17])[H:18])[N:6]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:3]=[N:8]/[C:5]([C:2]([H:16])([H:17])[H:18])([C:4]([O:7][H:10])=[O:9])[N:6]([H:11])[H:12])([H:13])([H:14])[H:15],65.99041000000128
MR_412493_1,[C:1]1([O:7][H:9])([H:11])[C:4]([C:2]([N:6]([H:14])[H:15])([H:16])[H:17])([N:3]([N:5]([H:12])[H:13])[H:10])[O:8]1>>[C:1]([C:2]([N:6]([H:14])[H:15])([H:16])[H:17])([C:4]([N:3]([N:5]([H:12])[H:13])[H:10])=[O:8])([O:7][H:9])[H:11],27.93943750001347
MR_1033_1,[C:1]([C:2]([O:3][H:6])([O:5][H:7])[H:9])(=[O:4])[H:8]>>[C:1]([C:2]([O:3][H:6])=[O:5])([O:4][H:7])([H:8])[H:9],39.44653250003128
MR_457173_1,[C:1]([N:4]([C:2]([H:16])([H:17])[H:18])[H:11])([N:6]([H:12])[H:13])([O:8][H:10])/[N:9]=[C:5](\[C:3]([H:19])([H:20])[H:21])[N:7]([H:14])[H:15]>>[C:1](\[N:6]([H:12])[H:13])([O:8][H:10])=[N:9]\[C:5]([C:3]([H:19])([H:20])[H:21])([N:4]([C:2]([H:16])([H:17])[H:18])[H:11])[N:7]([H:14])[H:15],41.28949999997957
MR_112222_0,[C:1](/[C:3](=[C:4](/[C:2]([H:13])([H:14])[H:15])[N:5]([H:8])[H:9])[O:6][H:7])([H:10])([H:11])[H:12]>>[C:1]([C:3]([C:4]([C:2]([H:13])([H:14])[H:15])([N:5]([H:8])[H:9])[H:7])=[O:6])([H:10])([H:11])[H:12],58.73399999998796
MR_292644_0,[C:1]1([O:7]/[C:6]([C:4]([H:14])([H:15])[H:16])=[N:8]\[H:11])([H:9])[C:2]([C:5]([H:17])([H:18])[H:19])([H:10])[C:3]1([H:12])[H:13]>>[C:1]([C:2]([C:3](/[C:6]([C:4]([H:14])([H:15])[H:16])=[N:8]\[H:11])([H:12])[H:13])([C:5]([H:17])([H:18])[H:19])[H:10])(=[O:7])[H:9],72.78623500003604
MR_387326_1,[C:1]([C:4]([N:7]([H:15])[H:16])(/[C:8](=[C:2]([C:3](=[N:5]\[H:11])\[N:6]([H:13])[H:14])/[O:9][H:10])[H:17])[H:12])([H:18])([H:19])[H:20]>>[C:1](/[C:4]([N:7]([H:15])[H:16])=[C:8](/[C:2](=[C:3]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])[O:9][H:10])[H:17])([H:18])([H:19])[H:20],36.452730000028026
MR_324074_0,[C:1](/[C:4](=[N:6]\[N:2]([N:3]([H:8])[H:9])[O:5][H:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C@@:4]([O:5][H:7])([N:6][N:2][N:3]([H:8])[H:9])[H:10])([H:11])([H:12])[H:13],27.360255000013325
MR_34930_0,[C:1]1([C:2]([H:13])([H:14])[H:15])([H:9])[C:4]([O:6][H:8])([H:11])[C:5]1([C:3](=[O:7])[H:10])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4](=[C:5](/[C:3](=[O:7])[H:10])[H:12])[H:11])([O:6][H:8])[H:9],55.98994249999621
MR_47443_1,[C:1](/[N:8]=[C:4](/[C:2]([H:15])([H:16])[H:17])[N:3]([N:5]([H:9])[H:10])[C:6](=[C:7]([H:18])[H:19])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:8](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:3]/[N:5]([H:9])[H:10])[C:6](=[C:7]([H:18])[H:19])[H:11])([H:12])([H:13])[H:14],52.45711749999842
MR_189363_1,[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[H:8])([N:7]=[C:4]([N:5]([H:11])[H:12])[N:6]([H:9])[H:10])([H:13])[H:14]>>[C:1](=[N:7][C:4]([N:3]([C:2]([H:15])([H:16])[H:17])[H:8])([N:5]([H:11])[H:12])[N:6]([H:9])[H:10])([H:13])[H:14],67.4964100000156
MR_592537_1,[C:1](/[N:8]=[C:5](\[C:2]([H:15])([H:16])[H:17])[N:4](/[C:6]([C:3]([H:18])([H:19])[H:20])=[N:9]\[H:11])[O:7][H:10])([H:12])([H:13])[H:14]>>[C:1]([N:8](/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:4]/[O:7][H:10])/[C:6]([C:3]([H:18])([H:19])[H:20])=[N:9]\[H:11])([H:12])([H:13])[H:14],39.729534999994485
MR_273917_1,[C:1]1([C:2]([C:5]([H:17])([H:19])[H:20])([C:6]([H:18])([H:21])[H:22])[C:8](=[O:9])[H:13])([C:4]([H:14])([H:15])[H:16])[C:3]([H:11])([H:12])[N:7]1[H:10]>>[C:1](=[C:2]([C:5]([H:17])([H:19])[H:20])[C:6]([H:18])([H:21])[H:22])([C:4]([H:14])([H:15])[H:16])[N:7]([C:3]([C:8](=[O:9])[H:13])([H:11])[H:12])[H:10],60.05739749996394
MR_283084_1,[C:1]([C:2]([H:12])([H:13])[H:14])([N:4]([C:5]([C:3]([H:15])([H:16])[H:17])=[O:8])[O:6][H:9])([O:7][H:10])[H:11]>>[C@@:1]([C:2]([H:12])([H:13])[H:14])([O:7][H:10])([O:8]/[C:5]([C:3]([H:15])([H:16])[H:17])=[N:4]\[O:6][H:9])[H:11],51.35020749997523
MR_100435_0,[C:1]([N:2]([O:4][C:3]([O:5][H:7])=[O:6])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:2]([O:6][C:3](=[O:4])[O:5][H:7])[H:8])([H:9])([H:10])[H:11],52.01598499997076
MR_534681_0,[C:1]([N:2]([O:3][H:8])[O:4][H:7])([O:5][H:10])([O:6][H:9])[H:11]>>[C:1]([N:2]([O:4][H:7])[O:5][H:10])([O:3][H:8])([O:6][H:9])[H:11],72.0263324999928
MR_511045_0,[C:1]([C:2]([H:18])([H:19])[H:20])([C:3](=[C:4]([N:6]([H:12])[H:13])[N:7]([H:14])[H:15])[N:5]([H:10])[H:11])([N:8]([H:16])[H:17])[H:9]>>[C:1]([C:2]([H:18])([H:19])[H:20])([C:4](=[C:3]([N:5]([H:10])[H:11])[N:7]([H:14])[H:15])[N:6]([H:12])[H:13])([N:8]([H:16])[H:17])[H:9],62.45821250000191
